US04703057
8-methoxy-4-thiochromanol.
89 mmol of 8-methoxy-4-thiochromanone are dissolved in 70 ml of a mixture of methanol and tetrahydrofuran (3/4). 134 mmol of sodium borohydride dissolved in 50 ml of aqueous methanol (50%) are added. After stirring for 1 hour at room temperature and then extracting with methylene chloride, the resulting product is recrystallised from a mixture of methanol and diethyl ether (1/10).

reactant | 8-methoxy-4-thiochromanone | 89 mmol | COC=1C=CC=C2C(CCSC12)=O | C10H10O2S
reactant | sodium borohydride | 134 mmol | [BH4-].[Na+]
solvent | methanol | CO | CH4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methanol | 50 ml | CO | CH4O
product | 8-methoxy-4-thiochromanol | COC=1C=CC=C2C(CCSC12)O | C10H12O2S
